US07960562B2
A trifluoroacetic acid (95 mL) solution of benzyl 3-(chlorosulfonyl)-2-methoxybenzoate (12.9 g) was stirred at 70° C. for 5 hours. The solution part was decanted and evaporated under reduced pressure. Toluene was added to the residue, and this was again evaporated. The resulting solid was collected by filtration, washed with toluene and dried to obtain 3-(chlorosulfonyl)-2-methoxybenzoic acid (6.52 g).

reactant | trifluoroacetic acid | 95 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | benzyl 3-(chlorosulfonyl)-2-methoxybenzoate | 12.9 g | ClS(=O)(=O)C=1C(=C(C(=O)OCC2=CC=CC=C2)C=CC1)OC | C15H13ClO5S
product | 3-(chlorosulfonyl)-2-methoxybenzoic acid | 6.52 g | ClS(=O)(=O)C=1C(=C(C(=O)O)C=CC1)OC | C8H7ClO5S
